datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC(C)(C)O[C:62]([NH:61][NH2:10])=[O:63].CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]2=CC=C(N(C)C)C=C2)[C:22](C)=[O:23])[CH:43]=[CH:44]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([NH2+:10][NH:61][C:62](OC(C)(C)C)=[O:63])[C:21](C[N+]2=CC=C(N(C)C)C=C2)=[C:22](C)[O-:23])[CH:43]=[CH:44]1 10=20;20,21=21,22;22,23=23"
"CC(C)(C)[C:22]1=[NH+:23]C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1.CC[O:82][C:71]([C-:10]1CCCC[C:62]1=[O:61])=[O:72]>>CC[O:82][C:71]([C:10]1([CH:20]([C:21]2=[C:22](C(C)(C)C)[NH:23]C3=C2C=CC=C3)[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)CCCC[C:62]1=[O:61])=[O:72] 10=20;20,21=21,22;22,23=23"
"C1CCN([C:34]2=[CH:33][CH:32]=[C:31]([CH+:20][C:41]3=[CH:42][CH:43]=[C:44](N4CCCC4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)C1.C1C[O:62][CH:11]([H:10])[O:12]1>>C1CCN([C:34]2=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:41]3=[CH:42][CH:43]=[C:44](N4CCCC4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)C1.C1C[O:62][CH:11]=[O+:12]1 10,11=10,20;12=11,12"
"CC[O:92][C:71]([CH-:10][C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:96])[CH:83]=[CH:82]1)=[O:72].COC1=CC=CC(OC)=C1[N+]1=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])N(C)C=C1>>CC[O:92][C:71]([CH:10]([CH:20]([CH:21]=[C:22](C1=[N+](C2=C(OC)C=CC=C2OC)C=CN1C)[O-:23])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:96])[CH:83]=[CH:82]1)=[O:72] 10=20;20,21=21,22;22,23=23"
C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH+:20][CH:51]=[CH:52][C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1.FC(F)(F)[S:61]([CH-:10][C:81]1=[CH:82][CH:83]=[C:84](C(F)(F)F)[CH:93]=[CH:92]1)(=[O:62])=[O:72]>>FC(F)(F)[S:61]([CH:10]([CH:20]([C:31]1=[CH:36][C:35]2=[C:34]3N(CCC[C:33]3=[CH:32]1)CCC2)[CH:51]=[CH:52][C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1)[C:81]1=[CH:82][CH:83]=[C:84](C(F)(F)F)[CH:93]=[CH:92]1)(=[O:62])=[O:72] 10=20
"CC1=CC=[C:10]([B-:11]23[O:62]CC(C)(C[O:72]2)C[O:82]3)O1.CC[O:33][C:31](/[CH:20]=[C:21](C)/[N:22]=[N:23]/[C:24](NC1=CC=CC=C1)=[O:25])=[O:32]>>CC12C[O:62][B:11]([O:72]C1)[O:82]C2.CC[O:33][C:31]([CH:20]([C:10]1=CC=C(C)O1)[C:21](C)=[N:22][N:23]=[C:24](NC1=CC=CC=C1)[O-:25])=[O:32] 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH+:20][C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)[Co-3:42]32(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[O+]#C[Mn-5:11](C#[O+])(C#[O+])(C#[O+])([P+](C1CCCCC1)(C1CCCCC1)C1CCCCC1)[H:10]>>[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH:20]([H:10])[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)[Co-3:42]32(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[O+]#C[Mn-4:11](C#[O+])(C#[O+])(C#[O+])[P+](C1CCCCC1)(C1CCCCC1)C1CCCCC1 10,11=10,20"
"CN(C)[C:65]1=[CH:64][CH:63]=[N+:62]([BH2-:11][H:10])[CH:73]=[CH:74]1.CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][C:43](C)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CN(C)[C:65]1=[CH:64][CH:63]=[N+:62]([BH2:11])[CH:73]=[CH:74]1.CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([H:10])([C:41]2=[CH:42][C:43](C)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20"
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21]2/C3=CC=CC=C3[N+:23](C)=[CH:22]2)[CH:36]=[CH:35]1.C[C-:10]([C:61]#[N:62])[C:71]1=[CH:72][CH:73]=[CH:74][CH:85]=[CH:84]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([C:10](C)([C:61]#[N:62])[C:71]2=[CH:72][CH:73]=[CH:74][CH:85]=[CH:84]2)[C:21]2=[CH:22][N:23](C)C3=CC=CC=C32)[CH:36]=[CH:35]1 10=20;20,21=21,22;22,23=23"
FC(F)(F)[S:61]([CH-:10][C:81]1=[CH:82][CH:83]=[C:84](C(F)(F)F)[CH:93]=[CH:92]1)(=[O:62])=[O:72].F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1>>FC(F)(F)[S:61]([CH:10]([C:20]([C:31]1=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]1)([C:41]1=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]1)[C:81]1=[CH:82][CH:83]=[C:84](C(F)(F)F)[CH:93]=[CH:92]1)(=[O:62])=[O:72] 10=20
C1C[S:31][CH+:20][S:41]C1.NC[C@@H]1CCC[NH:10]1>>NC[C@@H]1CCC[NH+:10]1[CH:20]1[S:31]CCC[S:41]1 10=20
"CCCC[P:10](CCCC)CCCC.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[C:21]2[C:22](=[O:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1>>CCCC[P+:10](CCCC)(CCCC)[CH:20]([C:21]1=[C:22]([O-:23])C2=C(C=CC=C2)[C:32]1=[O:33])[C:31]1=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]1 10=20;20,21=21,22;22,23=23"
"CC[O:33][C:22]([CH:21]=[CH2:20])=[O:23].C[S+:61](C)[O-:10]>>CC[O:33][C:22](=[CH:21][CH2:20][O:10][S+:61](C)C)[O-:23] 10=20;20,21=21,22;22,23=23"
"C1CC[C:20](=[O:21])CC1.[CH:10](=[C:11]=[N-:12])[N+:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1>>C1CC[C:20]([CH:10]([C:11]#[N:12])[N+:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)([O-:21])CC1 10,11=10,20;12=11,12;20,21=21"
